US07192968B2
1-(tert-Butoxycarbonyl)-4-hydroxy-4-(methoxycarbonyl-ethynyl)piperidine
n-Butyllithium (1.57N hexane solution, 6.4 ml) was added dropwise to a solution of methyl propionate (893 μl) in tetrahydrofuran (50 ml) at −78° C. After stirring for 30 minutes, a solution of 1-(tert-butoxycarbonyl)-4-piperidone (2.0 g) in tetrahydrofuran (10 ml) was added, and the mixture was gradually warmed to room temperature and stirred overnight. A saturated aqueous solution (50 ml) of ammonium chloride and ethyl acetate (50 ml) were added to the reaction mixture to separate an organic layer. The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to obtain the title compound (1.78 g) as a pale yellow caramel-like substance.

reactant | n-Butyllithium | 1.57N, 6.4 ml | C(CCC)[Li]
reactant | methyl propionate | 893 μl | C(CC)(=O)OC | C4H8O2
reactant | 1-(tert-butoxycarbonyl)-4-piperidone | 2.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(tert-Butoxycarbonyl)-4-hydroxy-4-(methoxycarbonyl-ethynyl)piperidine | 1.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#CC(=O)OC)O | C14H21NO5
